US04824848
7-(4-aminobenzyl)-5-butyl-3-methylaminopyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione hydrochloride
To a suspension of 5-butyl-3-methylamino-7-(4-nitrobenzyl)pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione (1 g, 2.6 mM) in concentrated hydrochloric acid (5 ml) and ethanol (2.5 ml) was added dropwise a solution of stannous chloride (3.75 g) in ethanol (5 ml) at room temperature with stirring. The mixture was stirred at room temperature for 24 hours and concentrated to dryness. The residue was crystallized from hot water to give yellow crystals (0.42 g, 46%), m.p. >310° C.

reactant | 5-butyl-3-methylamino-7-(4-nitrobenzyl)pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 2.6 mM, 1 g | C(CCC)N1C(N(C2=C(C1=O)C(=NN2)NC)CC2=CC=C(C=C2)[N+](=O)[O-])=O | C17H20N6O4
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 7-(4-aminobenzyl)-5-butyl-3-methylaminopyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione hydrochloride | 0.42 g, 46% | Cl.NC1=CC=C(CN2C(N(C(C3=C2NN=C3NC)=O)CCCC)=O)C=C1 | InChI=1S/C17H22N6O2.ClH/c1-3-4-9-22-16(24)13-14(19-2)20-21-15(13)23(17(22)25)10-11-5-7-12(18)8-6-11;/h5-8H,3-4,9-10,18H2,1-2H3,(H2,19,20,21);1H
